US07157488B2
2,2,3,3,3-Pentafluoropropyl tosylate
Combine 2,2,3,3,3-pentafluoropropan-1-ol (9.7 ml) and pyridine. Cool to between 0° C. and 10° C. and add portion-wise the p-toluenesulfonylchloride (6.2 g) and stir with warming to room temperature. After 3 hours at room temperature, pour the reaction mixture into ice water and stir for 30 min to give a solid. Filter the solid, wash with water, and dry to give of the title compound.

reactant | 2,2,3,3,3-pentafluoropropan-1-ol | 9.7 ml | FC(CO)(C(F)(F)F)F | C3H3F5O
reactant | p-toluenesulfonylchloride | 6.2 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2,2,3,3,3-Pentafluoropropyl tosylate | S(=O)(=O)(OCC(C(F)(F)F)(F)F)C1=CC=C(C)C=C1 | C10H9F5O3S
